US07122580B2
2-Amino-5-chlorobenzoic acid methyl ester (1.85 g, 10.0 mmol) was treated with 1-napthaldehyde (1.56 g, 10.0 mmol) and sodium triacetoxyborohydride (4.23 g, 20.0 mmol) in 1,2-dichloroethane as described in general procedure E to give 5-chloro-2-[(napthalen-1yl-methyl)-amino]-benzoic acid methyl ester (2.54 g, 78%). This methyl ester (2.0 g, 6.13 mmol) was treated with LiOH (2 eq, 1N aqueous solution) according to the general procedure C gave 5-chloro-2-[(napthalen-1yl-methyl)-amino]-benzoic acid (1.64 g, 86.0%).

reactant | 2-Amino-5-chlorobenzoic acid methyl ester | 10.0 mmol, 1.85 g | COC(C1=C(C=CC(=C1)Cl)N)=O | C8H8ClNO2
reactant | 1-napthaldehyde | 10.0 mmol, 1.56 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 20.0 mmol, 4.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-chloro-2-[(napthalen-1yl-methyl)-amino]-benzoic acid methyl ester | 2.54 g, 78% | COC(C1=C(C=CC(=C1)Cl)NCC1=CC=CC2=CC=CC=C12)=O | C19H16ClNO2
